US09212184B2
To a stirred solution of intermediate example 3-1 6-bromo-3-iodo-8-methylsulfanyl-imidazo[1,2-a]pyrazine (25.00 g, 67.6 mmol) in THF (214 mL) and water (100 mL) was subsequently added 43 g tripotassium phosphate (203 mmol, 3 eq), 18.01 g [4-[(cyclopropylamino)carbonyl]phenyl]-boronic acid (87.8 mmol, 1.3 eq) and 5.52 g Pd(dppf)Cl2 (6.8 mmol, 0.1 eq) in one portion at rt under argon atmosphere. After stirring overnight at 45° C., ethyl acetate was added and the organic phase was washed with sat. sodium chloride solution, dried over sodium sulphate and filtered. After removal of the solvent, purification by flash chromatography (n-hexane/ethyl acetate 85:15) yielded 15.33 g (56.26%) 4-(6-bromo-8-methylsulfanyl-imidazo[1,2-a]pyrazin-3-yl)-N-cyclopropyl-benzamide: 1H-NMR (300 MHz, CDCl3): δ=8.07 (1H, s), 7.92 (2H, d), 7.77 (1H, s), 7.60 (2H, d), 6.32 (1H, bs), 2.95 (1H, m), 2.70 (3H, s), 0.92 (2H, m), 0.67 (2H, m) ppm. UPLC-MS: RT=1.12 min; m/z 404.3 [MH+]; required MW=403.3.

reactant | 6-bromo-3-iodo-8-methylsulfanyl-imidazo[1,2-a]pyrazine | 67.6 mmol, 25.00 g | BrC=1N=C(C=2N(C1)C(=CN2)I)SC | C7H5BrIN3S
reactant | tripotassium phosphate | 203 mmol, 43 g, 3 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | [4-[(cyclopropylamino)carbonyl]phenyl]-boronic acid | 87.8 mmol, 18.01 g, 1.3 eq | C1(CC1)NC(=O)C1=CC=C(C=C1)B(O)O | C10H12BNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 214 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 6.8 mmol, 5.52 g, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(6-bromo-8-methylsulfanyl-imidazo[1,2-a]pyrazin-3-yl)-N-cyclopropyl-benzamide | 15.33 g, 56.26% | BrC=1N=C(C=2N(C1)C(=CN2)C2=CC=C(C(=O)NC1CC1)C=C2)SC | C17H15BrN4OS
